US05300716
4.8 g (28.6 mmole) of the olefinic alcohol obtained under letter ii. above were kept at reflux for 1 h in 80 ml of CCl4 in the presence of 11.3 g (43 mmole) of triphenylphosphine. After evaporating the solvent, the residue was filtered on a column filled with silica, using as eluting agent a mixture of 1 to 5% of ethyl acetate in cyclohexane, to give 4.16 g of undeca-2Z,5Z-dienyl chloride (yield: 78%).

reactant | triphenylphosphine | 43 mmole, 11.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CCl4 | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | undeca-2Z,5Z-dienyl chloride | 4.16 g, yield: 78% | C(\C=C/C\C=C/CCCCC)Cl | C11H19Cl
